US07582773B2
Step 2: Synthesis of [4-(3-Benzyl-1,2-dimethyl-1H-indol-5-yl)-phenoxy]-acetic acid.
The desired product was prepared using a procedure similar to step 2 of example 4. Thus, [4-(3-benzyl-1,2-dimethyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester (0.151 g, 0.378 mmol) was reacted with 1N KOH (0.8 ml) in THF/MeOH (3 ml/2 ml) to give the product (0.068 g, 0.176 mmol, 47%) as a yellow solid, mp 204-207° C. 1H NMR (DMSO-d6) δ 2.40 (s, 3H), 3.67 (s, 3H), 4.06 (s, 2H), 4.67 (s, 2H), 6.94 (d, J=8.9 Hz, 2H), 7.08-7.12 (m, 1H), 7.19-7.24 (m, 4H), 7.28 (dd, J=1.7, 8.6 Hz, 1H), 7.39 (d, J=8.4 Hz, 1H), 7.50 (d, J=8.7 Hz, 2H), 7.56 (d, J=1.4 Hz, 1H); IR (solid) 3020, 2880, 1740, 1710, 1510, 1480, and 1230 cm−1; [ESI(+)], m/z 386 (M+H)+; Anal. Calcd. for C25H23NO3.0.3H2O: C, 76.82; H, 6.17; N, 3.58; Found: C, 76.66; H, 6.00; N, 3.46.

reactant | [4-(3-benzyl-1,2-dimethyl-1H-indol-5-yl)-phenoxy]-acetic acid methyl ester | 0.378 mmol, 0.151 g | COC(COC1=CC=C(C=C1)C=1C=C2C(=C(N(C2=CC1)C)C)CC1=CC=CC=C1)=O | C26H25NO3
reactant | KOH | 1N, 0.8 ml | [OH-].[K+]
solvent | THF MeOH | 3 ml | C1CCOC1.CO
product | [4-(3-Benzyl-1,2-dimethyl-1H-indol-5-yl)-phenoxy]-acetic acid | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)C1=CC=C(OCC(=O)O)C=C1)C)C | C25H23NO3
